US05011944
Ethyl 6-ethoxy-1,4-naphthoquinone-7-carboxylate
0.42 g (0.002 mol) of ethyl 4-ethoxy-2-oxo-2H-pyran-5-carboxylate, 1.08 g (0.01 mol) of 1,4-benzoquinone and 0.54 g (0.0062 mol) of MnO2 in 4.8 ml of dichlorobenzene are heated at 180° C. for 12 hours. The resulting reaction mixture is chromatographed over a column of 30 g of silica gel 60 (mobile phase 99:1 CH2Cl2 /acetone, 0.3 bar excess pressure). This gives 0.41 g (75.9%) of crystals of melting point 60°-62° C.

reactant | ethyl 4-ethoxy-2-oxo-2H-pyran-5-carboxylate | 0.002 mol, 0.42 g | C(C)OC1=CC(OC=C1C(=O)OCC)=O | C10H12O5
reactant | 1,4-benzoquinone | 0.01 mol, 1.08 g | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | dichlorobenzene | 4.8 ml | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
catalyst | MnO2 | 0.0062 mol, 0.54 g | O=[Mn]=O
product | Ethyl 6-ethoxy-1,4-naphthoquinone-7-carboxylate | C(C)OC=1C=C2C(C=CC(C2=CC1C(=O)OCC)=O)=O | C15H14O5
